US06011044
Preparation of 1-(2-methyl-4-fluorophenyl)-4-methylamino-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methyl-4-fluorophenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(500 mg, 1.3 mmol) was dissolved in aqueous solution of methylamine(40%, 10 ml) in the pressure tube, and the reaction mixture was refluxed at 190° C. for 3 hours. The solvent was removed by distillation under reduced pressure, and the residue was diluted in dichloromethane(20 ml), then washed with water(15 ml) for 3 times. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography with ethyl acetate as eluent to obtain 380 mg of desired compound as solid in 72% of yield.

reactant | 1-(2-Methyl-4-fluorophenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.3 mmol, 500 mg | CC1=C(C=CC(=C1)F)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C19H13ClF4N2O
reactant | methylamine | 10 ml | CN | CH5N
product | 1-(2-methyl-4-fluorophenyl)-4-methylamino-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 380 mg | CC1=C(C=CC(=C1)F)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NC | C20H17F4N3O
